US06797718B2
Under a nitrogen atmosphere, 2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine (4.6 g) from Part A and ammonium acetate (46 g) were heated in a sealed tube to 150° C. After 65 hours, NMR analysis indicated that the reaction was complete. The reaction mixture was cooled to ambient temperature, dissolved in ethyl acetate, and washed 3 times with 1N potassium hydroxide and once with water. The organic layers were dried with magnesium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in 10% hydrochloric acid and washed 3 times with dichloromethane (DCM). Potassium hydroxide was added to the aqueous layer to bring the pH to 14, and this was subsequently washed 4 times with DCM. The combined organic layers were washed twice with water, twice with brine, dried with magnesium sulfate, and concentrated under reduced pressure. The oil was purified by column chromatography over silica using 98/2 DCM/methanol as the eluant. The oil was then triturated with ethyl acetate/hexane and the resulting solid was recrystallized from ethyl acetate/hexane to yield 2-(ethoxymethyl)-6,7-dimethyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine as a white solid, m.p. 78.0 78.5° C.

reactant | 2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine | 4.6 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCCCC=1C=NC=CC1 | C27H32N4O3
reactant | ammonium acetate | 46 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(ethoxymethyl)-6,7-dimethyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCCCC=1C=NC=CC1 | C21H29N5O2
